Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with a history of GERD presenting with rash.  
 First noticed itchy, rash in the area of the left gluteal fold 
five days ago. Seemed similar to a fungal rash he'd had in the 
same area last ___. Tried topical antifungal but the rash 
continued to spread down his thigh and into his groin area. 
Notes significant pruritus and some twinges of pain in the area 
when working out, but denies pain otherwise. Two days later he 
noticed a new itching rash on both his forearms that started on 
the wrists and spread up his arm. He presented to the ___ 
clinic and was given course of keflex and bactrim for presumed 
cellulitis. The day prior to presentation noticed worsening 
swelling in the left thigh extending to the knee, that improved 
with elevation and on the antibiotics but he the erythema 
continued to spread down his thigh and noticed new itchy rash on 
the right inner thigh, which prompted him to come in to the ED 
for evaluation today.  
 Denies fevers, chills, fatigue, joint pain, myalgias, nausea, 
vomiting, diarrhea, urinary symptoms. Denies wearing any new 
clothing in the affected areas, new skin products or laundry 
detergent. Did start going to a new gym 1 week ago. No insect 
bites. Traveled to ___ in ___ but otherwise has had 
no recent travel. No new medications aside from the antibiotics. 
On ___ since ___. Has not been sexually active for 
the past two months, prior to that had been sexually active with 
multiple different male partners. Per patient last HIV test in 
___ was negative.  
 In the ED, initial VS were: 97.5 73 115/68 18 98% RA  
 Exam notable for: Confluent erythematous papules over flexor 
surfaces of ___ arms from elbow to wrist and over R groin around 
to buttock and down medial thigh. Blanching. Tender over R 
buttock.  
 Labs showed: WBC 7.3, Cr 1.4 (bl 0.9), Lactate:1.3  
 Imaging showed: CT pelvics without contrast: No foci of gas. 
Asymmetric swelling of the left leg and trace amount of epi 
fascial fluid along the left lateral hip and posterolateral 
aspect of thigh. No drainable fluid collection.  
 Consults: gen surgery, who felt their was low suspicion for nec 
fasc  
 
 Patient received:  
 Piperacillin-Tazobactam 4.5 gm IV  
 Vancomycin 1500 mg IV  
 HydrOXYzine 25 mg PO  
 Transfer VS were: 98.2 56 96/55 16 96% RA  
 On arrival to the floor, patient reports overall feeling well 
aside from itching around his left thigh.  

 
Past Medical History:
 - GERD  
 
Social History:
___
Family History:
no significant family history of skin disorders, autoimmune 
disease, significant atrophic/allergic reactions 
 
Physical Exam:
 ADMISSION PHYSICAL EXAM: 
========================== 
 VS: 98.1 PO 108 / 63 62 18 94 RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema.  
 MSK: FROM of both hips without tenderness.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: left upper thigh with an erythematous confluent 
maculopapular rash extending up the left buttock half way up 
from the gluteal fold to midway down the posterior thigh, 
extending medially to the gluteal cleft, and across the lateral 
thigh to the left groin. The erythema is blanching. There is an 
area of induration over the left hip but it is nontender with no 
fluctuant areas. On the right medial thigh there a few sparse 
pink papules. There is an erythematous maculopapular rash on the 
flexor surface of both arms extending from the wrist to just 
above the antecubital fossa, worse on the right than the left. 
The palms are spared. There are scattered cherry red papules on 
the chest but no rash. 

Discharge Exam:
Vitals:  97.6PO 99 / 61R Lying 53 18 96 Ra  
GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema.  
 MSK: FROM of both hips without tenderness.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN:LLE rash with slight improvement in erythema. Small 
maculopapular rash on medial aspect of RLE. Bilateral forearms 
with maculopapular rash stable from prior. 
 
Pertinent Results:
Admission labs:
===============

___ 09:32PM BLOOD WBC-7.3 RBC-5.34 Hgb-13.0* Hct-38.1* 
MCV-71* MCH-24.3* MCHC-34.1 RDW-22.3* RDWSD-54.6* Plt ___
___ 09:32PM BLOOD Neuts-64.6 ___ Monos-8.6 Eos-6.4 
Baso-0.4 Im ___ AbsNeut-4.70 AbsLymp-1.45 AbsMono-0.63 
AbsEos-0.47 AbsBaso-0.03
___ 09:32PM BLOOD Glucose-94 UreaN-24* Creat-1.4* Na-140 
K-4.3 Cl-101 HCO3-27 AnGap-12
___ 06:05AM BLOOD Calcium-8.3* Phos-4.0 Mg-2.3
___ 06:39AM BLOOD HIV Ab-NEG
___ 09:46PM BLOOD Lactate-1.3

Discharge labs:
===============
___ 06:27AM BLOOD WBC-5.9 RBC-5.11 Hgb-12.4* Hct-37.1* 
MCV-73* MCH-24.3* MCHC-33.4 RDW-22.1* RDWSD-56.0* Plt ___
___ 06:27AM BLOOD Glucose-94 UreaN-21* Creat-1.0 Na-143 
K-4.6 Cl-103 HCO3-30 AnGap-10
___ 06:27AM BLOOD Calcium-8.6 Phos-4.3 Mg-2.2

Micro:
======
   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
Blood cultures ___: No growth to date

Imaging:
========
CT Pelvis ___ foci of gas.  Asymmetric swelling of the 
left leg and trace amount of epi fascial fluid along the left 
lateral hip and posterolateral aspect of thigh.  
No drainable fluid collection. 

 
Brief Hospital Course:
___ male with a history of GERD presenting with pruritic 
maculopapular rash concerning for contact dermatitis. 

 #Contact dermatitis: presenting with rash localized to the left 
thigh/groin and upper extremities with associated soft tissue 
swelling, pruritis, but minimal pain. Also with eczematous 
changes over bilateral forearms. No fevers/chills, leukocytosis. 
CT Pelvis with no foci of gas or drainable fluid collection. 
Initially concern for cellulitis, was covered with 
CTX/Vancomycin (___). Dermatology consulted, rash 
consistent with severe contact dermatitis. Patient given 
Clobetasol .05% BID applied to affected area, Medrol dose pack 
and hydroxyzine for itching. Clobetasol should be used only 14 
days out of the month given concern for atrophy. He will follow 
up with dermatology in 2 weeks. RPR negative. HIV and lyme 
serology pending at time of discharge. 

 ___: Cr 1.4 on admission from baseline 0.9. Likely medication 
effect from Bactrim. Cr at time of discharge 1.0. 

 #HIV prophylaxis: continue truvada daily for prophylaxis 

 #CODE: Full (confirmed) 
 #CONTACT: Name of health care proxy: ___ 
 Phone number: ___ 

TRANSITIONAL ISSUES:
====================
- Please monitor contact dermatitis on left lower extremity and 
bilateral forearms to ensure improvement.
- Discharged on clobetasol .05% BID. Clobetasol should be used 
only 14 days out of the month given concern for atrophy.
- HIV and lyme serology pending at time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID:PRN heartburn 
2. Finasteride 1.25 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath, 
wheezing 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID dermatitis 
RX *clobetasol 0.05 % apply to affected area twice daily 
Refills:*1 
2.  HydrOXYzine 25 mg PO Q6H:PRN itching  
RX *hydroxyzine HCl 25 mg 1 by mouth every 6 hours as needed 
Disp #*10 Tablet Refills:*0 
3.  Methylprednisolone 4 mg PO DAILY 
Please complete Medrol dose pak as instructed 
RX *methylprednisolone 4 mg ___ tablets(s) by mouth as directed 
Disp #*1 Dose Pack Refills:*0 
4.  Sarna Lotion 1 Appl TP QID:PRN itching  
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath, 
wheezing  
6.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
7.  Finasteride 1.25 mg PO DAILY  
8.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
9.  Ranitidine 150 mg PO BID:PRN heartburn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: contact dermatitis

Secondary diagnosis: acute renal failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why you were here?
You were admitted because you had a skin rash on your L leg.

What we did while you were here?
We gave you IV antibiotics to treat for a possible skin 
infection.
We had the dermatologist evaluate your rash and they thought it 
was a severe contact dermatitis.
You were given steroid tablets and Clobetasol cream to help 
reduce the inflammation.

What to do when you go home?
You should continue to take the Medrol dose pack and use the 
Clobetasol cream.
Do not use the Clobetasol cream for more than 14 days/month.
Please follow up with dermatology and your PCP. 

It was a pleasure taking care of you!

Your ___ Team 
 
Followup Instructions:
___